US20010041799A1
To a solution of 4-nitro-L-phenylalanine methyl ester hydrochloride salt (7.44 mmol, 1.94 g), 2-chloro-6-methylbenzoic acid (8.2 mmol, 1.4 g) and HBTU (8.2 mmol, 3.11 g) in DMF (27 mL) was added diisopropylethylamine (18.6 mmol, 3.24 mL) at room temperature. The clear solution was stirred for 48 h at room temperature and was diluted with 100 mL of ethyl acetate. The solution was washed in turn with 0.5N hydrochloric acid (2×50 mL), saturated sodium bicarbonate solution (2 x 50 mL), brine (100 mL) then was dried (MgSO4) and filtered. Concentration of the solution to dryness gave 2.67 g (95%) of N-[(2-chloro-6-methylphenyl)carbonyl]-4-nitro-L-phenylalanine methyl ester as a colorless solid, mp 120-123° C. HRMS: Obs. mass, 376.4274. Calcd. mass, 376.4238 (M+H).

reactant | 4-nitro-L-phenylalanine methyl ester hydrochloride salt | 7.44 mmol, 1.94 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)[N+](=O)[O-])=O
reactant | 2-chloro-6-methylbenzoic acid | 8.2 mmol, 1.4 g | ClC1=C(C(=O)O)C(=CC=C1)C | C8H7ClO2
reactant | HBTU | 8.2 mmol, 3.11 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 18.6 mmol, 3.24 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 27 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-[(2-chloro-6-methylphenyl)carbonyl]-4-nitro-L-phenylalanine methyl ester | 2.67 g, 95% | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H17ClN2O5
